US09260425B2
A solution of 630.8 mg (2.5 mmol) of 1,1′-(azodicarbonyl)-dipiperidine in 5 ml of THF was added dropwise to a mixture of 388 mg (2.0 mmol) of 4,4,5,5-Tetramethyl-2-(1H-pyrazol-4-yl)-1,3,2-dioxaborolane, 538 mg (2.5 mmol) of tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate and 0.62 ml (2.5 mmol) of tributylphosphine in 6 ml of tetrahydrofuran at 0° C. The mixture was stirred for 18 hours. The precipitate was filtered out and washed with ethyl ether. The filtrate was mixed with 50 ml of water and extracted with ethyl ether. The organic layer was washed with water, brine, dried over MgSO4 and concentrated. The residue was purified on 24 g silica column eluting with MeOH 0-4% gradient in DCM to afford 0.43 g (55%) of tert-Butyl 4-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)piperidine-1-carboxylate. ESI MS m/z 392.1

reactant | 1,1′-(azodicarbonyl)-dipiperidine | 2.5 mmol, 630.8 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 4,4,5,5-Tetramethyl-2-(1H-pyrazol-4-yl)-1,3,2-dioxaborolane | 2.0 mmol, 388 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate | 2.5 mmol, 538 mg | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | tributylphosphine | 2.5 mmol, 0.62 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)piperidine-1-carboxylate | 0.43 g, 55% | CC1(OB(OC1(C)C)C=1C=NN(C1)CC1CCN(CC1)C(=O)OC(C)(C)C)C | C20H34BN3O4
